US07087790B2
C (catechin) (0.8 g) and EGC (0.8 g) were dissolved in a mixture of acetone-pH 5.0 phosphate citrate buffer (1:10, v/v, 50 mL), which contained 4 mg horseradish peroxidase. While being stirred, 2.0 mL of 3.13% H2O2 was added four times during 45 minutes. The reaction mixture was extracted by ethyl acetate (50 mL×3). After concentration, the residue was subjected to Sephadex LH 20 column eluted with acetone-water solvent system (45%). 120 mg neotheaflavin was obtained.

reactant | catechin | C1=CC(=C(C=C1C2C(CC=3C(=CC(=CC3O2)O)O)O)O)O | C15H14O6
reactant | H2O2 | 2.0 mL | OO | H2O2
solvent | acetone | 50 mL, pH 5.0 | CC(=O)C | C3H6O
product | neotheaflavin | 120 mg | C1[C@H]([C@H](OC2=CC(=CC(=C21)O)O)C3=CC(=O)C(=C4C(=C3)C(=CC(=C4O)O)[C@@H]5[C@H](CC6=C(C=C(C=C6O5)O)O)O)O)O | C29H24O12
